2154-09-08 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea
   24 Hour Events:
   [**2154-9-7**]
   - overnight decreased FiO2 after ABG
   - did not make any big changes and hemodynamics were stable
   - UOP was low around 10-20cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-8**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 93 (75 - 97) bpm
   BP: 150/89(99) {114/67(78) - 150/89(99)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 54 kg
             Total In:
                                                                  2,409 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                      9 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    202 mL
   Urine:
                                                                    160 mL
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,249 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 82 (82 - 82) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.45/29/506/20/-1
   Ve: 5.8 L/min
   PaO2 / FiO2: 1,265
   Physical Examination
   General: thin, eldery, intubated and sedated
   HEENT: Sclera anicteric, MMM, oropharynx clear, pupils 3mm and
   reactive
   Neck: supple, JVP not elevated, no LAD
   Lungs: coarse lung sounds bilaterally, crackles at the bases, no
   wheezes, referred ventilator sounds
   CV: irregularly irregular, 2/6 systolic murmur best heard at LLSB
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool, palp pulses, no clubbing, no edema
   Labs / Radiology
   173 K/uL
   11.5 g/dL
   111 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.6 mEq/L
   35 mg/dL
   113 mEq/L
   145 mEq/L
   35.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2154-9-7**]  09:08 PM
                             [**2154-9-7**]  09:30 PM
                             [**2154-9-7**]  11:42 PM
                             [**2154-9-8**]  04:38 AM
   WBC
   7.1
   Hct
   35.9
   Plt
   173
   Cr
   0.9
   TropT
   0.02
   0.02
   0.01
   TCO2
   21
   Glucose
   111
   Other labs: PT / PTT / INR:15.8/43.2/1.4, CK / CKMB /
   Troponin-T:59//0.01, ALT / AST:39/51, Alk Phos / T Bili:85/1.2, Lactic
   Acid:1.9 mmol/L, LDH:295 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   89 y/o severe diastolic dysfunction with worsening heart failure,
   atrial fibrillation and atrial fibrillation who presents with acute on
   chronic worsening of dyspnea.
   .
   # Dyspnea/ Respiratory Failure: CHF vs PNA vs MI. Given rapid
   decompensation with small fluid bolus, and history of lack of fever,
   cough, no wbc, non-impressive CXR suspect patient in acute on chronic
   diastolic heart failure, either worsened recently by afib (or better
   rate control of afib in a setting were high HR is needed to maintain
   CO) or worsening MR.  [**Name13 (STitle) **] is likely preload dependent and may have
   been fluid down with increasing lasix.  Unclear if pt flashed in the ED
   or why she acutely compensated, but is now stable from a respiratory
   standpoint.  Lactates improving, received 3L NS in ED.  Hemodynamically
   might be improved with intubation because of positive pressure and
   decreased afterload in setting of MS.
   - ROMI
   - no diuresis tonight, BP stable, no more fluids; will attempt to wean
   vent in AM and if tolerating can gently diurese
   - stop Abx
   - wean vent as able
   - hold BB, ACEI tonight and monitor hemodynamics for now
   .
   # Acute on chronic diastolic congestive heart failure
   - likely combination of stiff diastolic failure and poor systolic
   function secondary to MR
   - continue PEEP to decrease afterload tonight
   - hold BB, ACEI tonight
   - no diuresis tonight as patient likely was volume down initially,
   probably adequately fluid resuccitated at this point
   - wean vent and add back on ACEI as tolerated
   .
   # Afib: not anticoagulated, rate controlled in 80s-110s at this time,
   did have metoprolol recently increased.
   - hold metoprolol in setting of hemodynamic instability
   - if rate increasing, restart BB at low level
   - cont telemetry
   - no anticoagulation for now
   - cards consult in the AM
   # Diabetes mellitus : stop metformin as patient may need imaging and it
   can cause elevated lactate.
   - stop metformin
   - start HISS
   # Lactate: poor tissue perfusion vs metformin effect much less likely
   infection.  Lactate improved with 3L NS IVFs in ED.
   - trend
   - stop metformin
   - treat heart failure
   # Hypertension: stable SBPs in 110s-120s
   - change to captopril for ease of titration when restarting meds
   # Hyperlipidemia: cont statin
   # Osteoporosis: not due to fosamax until [**9-13**]
   # Glaucoma: no eye drops on OMR med list. cont any home eye drops.
   # h/o Gout: no current symptoms, monitor as diuresis increases risk.
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals x2
   # Code: full, discussed with daughter
   # Communication: daugher and son-in-law; phone numbers on white board
   in room
   # Disposition: ICU, pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-7**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-09-08 09:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 y/o Chinese speaking f, diastolic CHF, MR, afib, DM who p/w 3 days
   inc SOB. Lasix was recently increased by Dr. [**First Name (STitle) **]. LE edema improved
   but her SOB did not. Also having intermittent CP several times a day.
   Initially sat 93% on 3L. CT showed new small bilat effusion. Given
   levofloxacin and SLNTG and felt a bit better. Then appeared dry and
   lactate was elevated and given a 250 cc bolus and went into resp
   distress and got intubated.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-9-7**] 10:39 PM
 NASAL SWAB - At [**2154-9-7**] 11:30 PM
 EKG - At [**2154-9-7**] 11:58 PM
   Kept her even overnight. Lactate went from 3.8 to 1.8.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   ASA, lipitor, heparin sc, SSI, propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-8**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 93 (75 - 97) bpm
   BP: 150/89(99) {114/67(78) - 150/89(99)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.3 kg (admission): 54 kg
             Total In:
                                                                  2,409 mL
                                                                     83 mL
   PO:
             TF:
   IVF:
                                                                      9 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    202 mL
   Urine:
                                                                    160 mL
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,249 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 82 (82 - 82) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 27 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/29/506/20/-1
   Ve: 6.1 L/min
   PaO2 / FiO2: 1,265
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), JVP at 10 cm
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   173 K/uL
   111 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.6 mEq/L
   35 mg/dL
   113 mEq/L
   145 mEq/L
   35.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2154-9-7**]  09:08 PM
                             [**2154-9-7**]  09:30 PM
                             [**2154-9-7**]  11:42 PM
                             [**2154-9-8**]  04:38 AM
   WBC
   7.1
   Hct
   35.9
   Plt
   173
   Cr
   0.9
   TropT
   0.02
   0.02
   0.01
   TCO2
   21
   Glucose
   111
   Other labs: PT / PTT / INR:15.8/43.2/1.4, CK / CKMB /
   Troponin-T:59//0.01, ALT / AST:39/51, Alk Phos / T Bili:85/1.2, Lactic
   Acid:1.9 mmol/L, LDH:295 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 .H/O CARDIOMYOPATHY, OTHER
 .H/O EDEMA, PERIPHERAL
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   1. resp failure: unclear if progressing heart failure, no evidence of
   PNA
   -diurese 500 to 1L neg
   -check BNP
   -TTE this am
   -start metoprolol 12.5 mg tid
   -cards consult for aid in diuresis
   -PS trial, consider SBT today, will plan to try to extubate tomorrow
   after diursis
   -rule out MI
   2. DM: SSI, BS well controlled
   3. FEN: TF
   4. Code: Full per daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-7**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam.
   Somewhat less sedated this am.
   97.7     96      130/76
   Arousable
   Chest
 few mid insp crackles
   CV [**4-12**] holosyst m
   w/o edema
   WBC 7.1
   HR is up some and is now faster than desirable.  Awaiting cardiology
   recs.  She has substantial structural disease but may benefit from
   better rate control. With her current BP would be inclined to push
   afterload reduction as she has signif MR.  Would be inclined to leave
   her intubated if recommendation is to cardiovert.
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 7037**] [**Name8 (MD) 7038**], RRT
   on:[**2154-9-8**] 11:45 ------
   Signed in error by [**Doctor First Name 7037**] [**Doctor Last Name 7038**]. Note above entered by [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2154-9-8**] 11:46 ------

2154-09-09 06:32:00 Physician Resident Progress Note
Chief Complaint: A. fib with RVR
   24 Hour Events:
   - Cardiology consulted.  They feel clinical picture is consistent with
   worsening CHF due to diastolic dysfuction in setting of new A. fib with
   RVR.  They recommended improving rate control with metoprolol, starting
   amiodarone, [**Last Name (un) 3538**] heparin drip, with plan for TEE/cardioversion in
   AM.
   - tolerated PS 5/5
   - given lasix 10 mg IV x 2 --> diuresed 0.5 L
   - BNP 8079
   - had 10 ccs of coffee grounds in NGT, started on IV PPI [**Hospital1 **]
   - Blood culture from [**2154-9-7**] from the ED positive for GPCs, started on
   vanco, surveillance blood cultures ordered
   - metoprolol dose increased for improved rate control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-9**] 02:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-9-8**] 09:00 AM
   Pantoprazole (Protonix) - [**2154-9-9**] 02:00 AM
   Other medications:
   Metoprolol 25 TID
   Vanco
   Pantoprazole 40 [**Hospital1 **]
   Heparin Drip
   Amiodarone
   Propofol
   Aspirin
   Atorvastatin
   Insulin Sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-9**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 88 (84 - 103) bpm
   BP: 120/80(88) {99/69(75) - 150/94(105)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54.3 kg (admission): 54 kg
   Height: 62 Inch
             Total In:
                                                                    793 mL
                                                                    387 mL
   PO:
             TF:
                                                                    143 mL
   IVF:
                                                                    280 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  1,319 mL
                                                                    140 mL
   Urine:
                                                                  1,319 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -526 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 81 (81 - 390) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 27 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/30/139/22/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   203 K/uL
   12.9 g/dL
   132 mg/dL
   1.1 mg/dL
   22 mEq/L
   8.1 mEq/L
   31 mg/dL
   116 mEq/L
   148 mEq/L
   40.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2154-9-7**]  09:08 PM
                             [**2154-9-7**]  09:30 PM
                             [**2154-9-7**]  11:42 PM
                             [**2154-9-8**]  04:38 AM
                             [**2154-9-8**]  02:14 PM
                             [**2154-9-8**]  03:21 PM
                             [**2154-9-9**]  04:50 AM
   WBC
   7.1
   8.9
   Hct
   35.9
   40.8
   Plt
   173
   203
   Cr
   0.9
   1.0
   1.1
   TropT
   0.02
   0.02
   0.01
   TCO2
   21
   21
   Glucose
   111
   104
   132
   Other labs: PT / PTT / INR:14.9/150.0/1.3, CK / CKMB /
   Troponin-T:59//0.01, ALT / AST:39/51, Alk Phos / T Bili:85/1.2,
   Differential-Neuts:77.7 %, Lymph:17.3 %, Mono:3.3 %, Eos:1.4 %, Lactic
   Acid:1.9 mmol/L, LDH:295 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   89 y/o severe diastolic dysfunction with worsening heart failure,
   recently diagnosed atrial fibrillation who presents with acute on
   chronic worsening of dyspnea, likely secondary to worsening CHF>
   .
   # Dyspnea/ Respiratory Failure.  SOB and respiratory failure likely due
   to diastolic heart failure with worsening in setting of A. fib with
   RVR.  Suspect  that she flashed in the ED in the setting of IVFs.  She
   is tolerating PS well but at risk for flashing at time of extubation
   given loss of positive pressure.
   - gentle diuresis with lasix IV 10 mg PRN for goal negative 0.5-1 L
   - rate control with metoprolol with goal HR of 70s-90s
   - undergoing amiodarone load
   - on heparin drip
   - plan for TEE with cardioversion today
   - SBT today
   .
   # Afib.  Not anticoagulated at home, but started on heparin yesterday
   with plan for cardioversion.  Continue to uptitrate metoprolol for
   improved rate control.  Gettting loaded with amiodarone.
   - uptitrate metoprolol with goal of HR 60s-80s
   - cont telemetry
   - continue heparin for anticoagulation
   - cards following
   - plan for TEE today with cardioversion
   .
   # GPC bacteremia.  Patient with blood cultures positive for GPCs from
   ED.  No signs of infection at present and afebrile.  Started on
   coumadin and will follow surveillance cultures.  Suspect may be a
   contaminant.
   - surveillance blood cultures
   - vanco for now until cultures speciated
   # Diabetes mellitus.  On metformin at home which is being held.
   - hold metformin
   - start HISS
   .
   # Hypertension: stable SBPs in 110s-120s in spite of propofol.
   - continue BB
   # Hyperlipidemia: cont statin
   # Osteoporosis: not due to fosamax until [**9-13**]
   # Glaucoma: no eye drops on OMR med list. cont any home eye drops.
   # h/o Gout: no current symptoms, monitor as diuresis increases risk.
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   # Access: peripherals x2 , will need more stable access, likely CVL
   given positive blood cultures
   # Code: full, discussed with daughter
   # Communication: daugher and son-in-law; phone numbers on white board
   in room
   # Disposition: ICU, pending above
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2154-9-7**] 11:30 PM
   22 Gauge - [**2154-9-8**] 03:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2154-09-09 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 yo w/ sig cardiomyopathy and severe MR, [** **]/flutter, admitted [**9-7**]
   for hypoxemic respiratory failure.
   24 Hour Events:
   Started on heparin gtt yest. Undergoing TEE and DCCV this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-9**] 02:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-9-9**] 02:00 AM
   Other medications:
   PEridex, ASA, Lipitor, RISS, heparin gtt, amiodarone 400 [**Hospital1 **],
   metoprolol 25 q8
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-9**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 88 (77 - 103) bpm
   BP: 128/76(89) {99/69(64) - 144/94(105)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 54.3 kg (admission): 54 kg
   Height: 62 Inch
             Total In:
                                                                    793 mL
                                                                    404 mL
   PO:
             TF:
                                                                    143 mL
   IVF:
                                                                    280 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,319 mL
                                                                    300 mL
   Urine:
                                                                  1,319 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -526 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 270 (81 - 390) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.43/30/139/19/-2
   Ve: 6.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic),
   holosystolic apical murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   14.3 g/dL
   195 K/uL
   121 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.1 mEq/L
   29 mg/dL
   106 mEq/L
   135 mEq/L
   45.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2154-9-7**]  09:08 PM
                             [**2154-9-7**]  09:30 PM
                             [**2154-9-7**]  11:42 PM
                             [**2154-9-8**]  04:38 AM
                             [**2154-9-8**]  02:14 PM
                             [**2154-9-8**]  03:21 PM
                             [**2154-9-9**]  04:50 AM
                             [**2154-9-9**]  06:35 AM
                             [**2154-9-9**]  07:58 AM
   WBC
   7.1
   8.9
   7.9
   Hct
   35.9
   40.8
   45.6
   Plt
   173
   203
   195
   Cr
   0.9
   1.0
   1.1
   1.1
   0.8
   TropT
   0.02
   0.02
   0.01
   TCO2
   21
   21
   Glucose
   111
   104
   132
   126
   121
   Other labs: PT / PTT / INR:13.9/150.0/1.2, CK / CKMB /
   Troponin-T:59//0.01, ALT / AST:39/51, Alk Phos / T Bili:85/1.2,
   Differential-Neuts:77.7 %, Lymph:17.3 %, Mono:3.3 %, Eos:1.4 %, Lactic
   Acid:1.9 mmol/L, LDH:295 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR [**9-9**]- LA enlargement and cardiomegaly, R-sided effusion and
   poss hilar fullness
   Microbiology: [**9-7**] Blood 1/4 bottles w/ GPCs
   [**9-9**] Blood pending
   Assessment and Plan
   89 yo w/ sig cardiomyopathy and MR, [**Month/Day (4) **]/flutter, admitted [**9-7**] for
   hypoxemic respiratory failure.
   Hypoxemic respiratory failure- most likely related to pulm edema w/
   underlying cardiomyopathy, MR [**First Name (Titles) **] [**Last Name (Titles) **]/flutter w/ RVR
   -stable on PSV 5/5, plan for SBT following DCCV and eval for extubation
   pending decr sedation
   -pulm toilet
   [**Last Name (Titles) 1641**]/flutter- in RVR initially
   -rate-controlled w/ metop and loading w/ amio
   -plan for TEE and DCCV, on heparin gtt
   Cardiomyopathy w/ MR
   [**Name13 (STitle) 8101**] diuresis of about -500/day
   -nonperative per pt and family wished
   GPC bacteremia- no source or signs of infxn, 1/4 bottles positive
   -vanco till cx back; presuming a CNS contaminant
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held this am for TEE and DCCV
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2154-9-7**] 11:30 PM
   22 Gauge - [**2154-9-8**] 03:30 PM
   Comments: will attempt a line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 89F AF, severe dCHF, 3+ MR p/w respiratory
   failure. On amio, awaiting cardioversion.
   Exam notable for Tm 97.9 BP 120/70 HR 80 RR 13 with sat 99 on PSV 5/5
   RSBI 111 UOP 30-40 cc/h. WD woman, NAD on vent. Coarse BS B. Irreg
   s1s2. Soft +BS. Labs notable for WBC 8K, HCT 46, K+ 3.1, Cr 0.8. CXR
   with massive LAE, R>L effusion / CHF.
   Agree with plan to manage diastolic and valvular CHF with
   cardioversion, diuresis and afterload reduction as able. Currently on
   heparin awaiting cardioversion, last PTT >150. Will attempt vent wean /
   SBT later today. Suspect BCx is a contaminant, will f/u remaining cx
   results and cover with vanco for now. Above d/w daughter at bedside in
   detail. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2154-9-9**] 12:59 ------

2154-09-10 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2154-9-9**] 10:00 AM
   PT GIVEN .5MG OF IV VERSED FOR PROCEDURE
 CARDIOVERSION/DEFIBRILLATION - At [**2154-9-9**] 01:50 PM
   ELECTIVE CARDIOVERSION FOR AF WITH 200 JOULES
   .
   -pt underwent TEE without sign of clot
   -Pt  cardioverted ~2pm and became  bradycardic to 30's, started on dopa
   by EP. suggested hold off on bb and amio until bradycardia resolves.
   -total of 30mg IV lasix given.
   -surveillence bcx ordered
   -extremely difficult to draw labs
   -had to stop heparin gtt as no access for labs and pt with small blood
   in ETT with suctioning.
   -HCT appears to be on downtrend, however, not that off baseline. T+S
   ordered
   -pt angry in am -pulled out OGT- RSBI 57
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-9-9**] 06:08 PM
   Midazolam (Versed) - [**2154-9-10**] 05:59 AM
   Fentanyl - [**2154-9-10**] 05:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-9-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 55 (38 - 99) bpm
   BP: 139/76(109) {83/41(52) - 139/106(109)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 54.3 kg (admission): 54 kg
   Height: 62 Inch
             Total In:
                                                                  1,057 mL
                                                                     62 mL
   PO:
             TF:
   IVF:
                                                                    927 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    270 mL
   Urine:
                                                                  1,780 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -723 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 308 (269 - 315) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.42/34/163/18/-1
   Ve: 4.8 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   178 K/uL
   11.9 g/dL
   100 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   23 mg/dL
   112 mEq/L
   144 mEq/L
   37.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2154-9-8**]  04:38 AM
                             [**2154-9-8**]  02:14 PM
                             [**2154-9-8**]  03:21 PM
                             [**2154-9-9**]  04:50 AM
                             [**2154-9-9**]  06:35 AM
                             [**2154-9-9**]  07:58 AM
                             [**2154-9-9**]  04:17 PM
                             [**2154-9-9**]  08:20 PM
                             [**2154-9-10**]  12:38 AM
                             [**2154-9-10**]  03:19 AM
   WBC
   7.1
   8.9
   7.9
   7.8
   Hct
   35.9
   40.8
   45.6
   36.1
   37.6
   Plt
   173
   203
   195
   178
   Cr
   0.9
   1.0
   1.1
   1.1
   0.8
   0.9
   0.9
   TropT
   0.01
   TCO2
   21
   23
   Glucose
   111
   104
   132
   126
   121
   101
   100
   Other labs: PT / PTT / INR:12.9/39.1/1.1, CK / CKMB /
   Troponin-T:59//0.01, ALT / AST:39/51, Alk Phos / T Bili:85/1.2,
   Differential-Neuts:76.9 %, Lymph:16.0 %, Mono:6.2 %, Eos:0.8 %, Lactic
   Acid:1.9 mmol/L, LDH:295 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8
   mg/dL
   .
   TEE [**9-9**]-
   No spontaneous echo contrast or thrombus is seen in the body of the
   left atrium/left atrial appendage or the body of the right atrium/right
   atrial appendage. The left atrial appendage emptying velocity is
   depressed (<0.2m/s). The right atrial appendage ejection velocity is
   depressed (<0.2m/s). No atrial septal defect is seen by 2D or color
   Doppler. There is symmetric left ventricular hypertrophy with normal
   cavity size. LV systolic function appears depressed. There are simple
   atheroma in the aortic arch and descending thoracic aorta to 47cm from
   the incisors. The aortic valve leaflets (3) are mildly thickened. Mild
   (1+) aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. Moderate to severe (3+) mitral regurgitation is seen. There
   is a small pericardial effusion.
   IMPRESSION: No spontaneous echo contrast or thrombus in the
   LA/LAA/RA/RAA. Moderate to severe mitral regurgitation. Mild aortic
   regurgitation.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ATRIAL FIBRILLATION (AFIB)
 ATRIAL FLUTTER (AFLUTTER)
 .H/O CARDIOMYOPATHY, OTHER
 .H/O EDEMA, PERIPHERAL
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   .
   89 y/o severe diastolic dysfunction with worsening heart failure,
   recently diagnosed atrial fibrillation who presents with acute on
   chronic worsening of dyspnea, likely secondary to worsening CHF.
   .
   # Dyspnea/ Respiratory Failure.  SOB and respiratory failure likely due
   to diastolic heart failure with worsening in setting of A. fib with
   RVR.  Suspect  that she flashed in the ED in the setting of IVFs.  She
   is tolerating PS well but at risk for flashing at time of extubation
   given loss of positive pressure.
   - gentle diuresis with lasix IV PRN for goal negative 0.5-1 L
   - rate control with metoprolol with goal HR of 60
   - s/p amio load
   - on heparin drip-but held o/n
   - s/p TEE and DCCV yesterday, with resultant bradycardia
   - plan to extubate today.
   .
   # Afib.  Not anticoagulated at home, but started on heparin with plan
   for cardioversion.  Continue to uptitrate metoprolol for improved rate
   control.  S/P amiodarone load
   - uptitrate metoprolol with goal of HR 60s-80s
   - cont telemetry
   - continue heparin for anticoagulation
   - cards following
   - s/p TEE with DCCV yesterday as above.
   - amio and BB currently being held given bradycardia.
   .
   # GPC bacteremia.  Patient with blood cultures positive for GPCs from
   ED.  No signs of infection at present and afebrile.  Started on
   coumadin and will follow surveillance cultures.  Suspect may be a
   contaminant.
   - surveillance blood cultures
   - vanco for now until cultures speciated
   # Diabetes mellitus.  On metformin at home which is being held.
   - hold metformin
   - start HISS
   .
   # Hypertension: stable SBPs in 110s-120s in spite of propofol.
   - continue BB
   # Hyperlipidemia: cont statin
   # Osteoporosis: not due for  fosamax until [**9-13**]
   # Glaucoma: no eye drops on OMR med list. cont any home eye drops.
   # h/o Gout: no current symptoms, monitor as diuresis increases risk.
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: heparin IV
   # Access: peripherals x2 , will need more stable access, ?PICC
   # Code: full, discussed with daughter
   # Communication: daugher and son-in-law; phone numbers on white board
   in room
   # Disposition: ICU, pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-9-7**] 11:30 PM
   22 Gauge - [**2154-9-8**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   PICC ordered for blood draws and IV abx
   ------ Protected Section Addendum Entered By:[**Name (NI) 8115**] [**Last Name (NamePattern1) 2512**], MD
   on:[**2154-9-10**] 09:28 ------

2154-09-10 08:53:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89F with chf, presented with acute pulm edema in the setting of new
   afib.
   24 Hour Events:
   s/p cardioversion
   persistent brady, likely due to prior metopr, amio
   some bloody secretions
 TRANS ESOPHAGEAL ECHO - At [**2154-9-9**] 10:00 AM
   PT GIVEN .5MG OF IV VERSED FOR PROCEDURE
 CARDIOVERSION/DEFIBRILLATION - At [**2154-9-9**] 01:50 PM
   ELECTIVE CARDIOVERSION FOR AF WITH 200 JOULES
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-9-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-9-9**] 06:08 PM
   Midazolam (Versed) - [**2154-9-10**] 05:59 AM
   Fentanyl - [**2154-9-10**] 05:59 AM
   Other medications:
   asa 325, lipitor, riss, protonix q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Epistaxis, No(t) OG / NG tube
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-9-10**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 49 (38 - 99) bpm
   BP: 127/47(66) {83/41(52) - 139/106(109)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 54.3 kg (admission): 54 kg
   Height: 62 Inch
             Total In:
                                                                  1,057 mL
                                                                     62 mL
   PO:
             TF:
   IVF:
                                                                    927 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    295 mL
   Urine:
                                                                  1,780 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -723 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 441 (269 - 441) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.42/34/163/18/-1
   Ve: 7.2 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: No(t) No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   178 K/uL
   100 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   23 mg/dL
   112 mEq/L
   144 mEq/L
   37.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2154-9-8**]  04:38 AM
                             [**2154-9-8**]  02:14 PM
                             [**2154-9-8**]  03:21 PM
                             [**2154-9-9**]  04:50 AM
                             [**2154-9-9**]  06:35 AM
                             [**2154-9-9**]  07:58 AM
                             [**2154-9-9**]  04:17 PM
                             [**2154-9-9**]  08:20 PM
                             [**2154-9-10**]  12:38 AM
                             [**2154-9-10**]  03:19 AM
   WBC
   7.1
   8.9
   7.9
   7.8
   Hct
   35.9
   40.8
   45.6
   36.1
   37.6
   Plt
   173
   203
   195
   178
   Cr
   0.9
   1.0
   1.1
   1.1
   0.8
   0.9
   0.9
   TropT
   0.01
   TCO2
   21
   23
   Glucose
   111
   104
   132
   126
   121
   101
   100
   Other labs: PT / PTT / INR:12.9/39.1/1.1, CK / CKMB /
   Troponin-T:59//0.01, ALT / AST:39/51, Alk Phos / T Bili:85/1.2,
   Differential-Neuts:76.9 %, Lymph:16.0 %, Mono:6.2 %, Eos:0.8 %, Lactic
   Acid:1.9 mmol/L, LDH:295 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8
   mg/dL
   Imaging: none new
   Microbiology: gpc x1 bottle
   Assessment and Plan
   89F with chf, presnted with acute pulm edema in the setting of new
   afib, now s/p dccv into sinus brady:
   dyspnea -- afib, pulm edema; s/p diuresis
   -extubate today
   afib:
   -heparin,  transition to coumadin
   -no nodal agents whily brady
   chf
   -goal tbb -[**Telephone/Fax (1) 264**]
   -start acei when stable
   gpc bacteremia: contaminant?
   -vanco
   -awaiting speciation
   awaiting picc, extubation, floor txr
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2154-9-7**] 11:30 PM
   22 Gauge - [**2154-9-8**] 03:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 89F AF, severe dCHF, 3+ MR p/w respiratory
   failure. Cardioverted yesterday.
   Exam notable for Tm 97.9 BP 130/70 HR 80 RR 13 with sat 99 on PSV 5/5
   RSBI 57 UOP 50-70 cc/h. WD woman, alert, follows commands, NAD on vent.
   Coarse BS B. Irreg s1s2. Soft +BS. Labs notable for WBC 8K, HCT 37, K+
   3.7, Cr 0.9.
   Agree with plan to manage diastolic and valvular CHF with gentle
   diuresis and afterload reduction with low dose captopril as able. Will
   attempt vent wean / SBT on 0/0 today with goal of extubation by noon.
   AF resolved with cardioversion, transition to lovenox / coumadin.
   Suspect BCx is a contaminant, will f/u remaining cx results and cover
   with vanco for now. Will place PICC today. Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 35 min